### PR TITLE
add weak equivalence between adjunctions and natural weqs of homsets

### PR DESCRIPTION
**Pull request by tamaravonglehn**
Suggested in comment to #608. (It only seems to work for categories not precategories though).

### CODE REVIEW

File: UniMath/CategoryTheory/Adjunctions.v [hunk 1]
```diff
@@ -700,4 +707,80 @@ Section Adjunction_from_HomSetIso.
...
+
+  Definition nathomweq_from_adj : (are_adjoints F G) → (natural_hom_weq F G)
+    := λ H, (adjunction_hom_weq H,, (φ_adj_natural_precomp H,, φ_adj_natural_postcomp H)).
+
+  Lemma adj_after_nathomweq (H : are_adjoints F G)
+    : adj_from_nathomweq (nathomweq_from_adj H) = H.
+  Proof.
+    apply subtypeEquality'.
+    - apply dirprod_paths; cbn.
+      + apply subtypeEquality'.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Adjunctions.v]: Use `apply nat_trans_eq` here instead. Same in the other component.

File: UniMath/CategoryTheory/Adjunctions.v [hunk 2]
```diff
@@ -700,4 +707,80 @@ Section Adjunction_from_HomSetIso.
...
+    apply subtypeEquality'.
+    - cbn.
+      unfold adjunction_hom_weq.
+      do 2 (apply funextsec; intro).
+      apply subtypeEquality'.
+      + cbn.
+        unfold φ_adj, adj_from_nathomweq. cbn.
+        apply funextsec.
+        intro f.
+        rewrite <- (pr2 (pr2 H)).
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Adjunctions.v]: Could you add access functions for `natural_hom_weq` and use those? Then the code would be easier to read. (The lack of access functions is of course an oversight of the person who first implemented `natural_hom_weq`. We will never know who that was.)
